* C:\Users\jarne\Documents\GitHub\EN-device-backscatter\simulations\cmos-voltage-dependent-resistor.asc
M1 N002 N001 0 0 2N7002
V1 N001 0 1
R1 N001 N002 100Meg
R2 N001 N003 10k
M2 N003 N001 N002 N002 2N7002
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jarne\AppData\Local\LTspice\lib\cmp\standard.mos
.dc v1 0 3
.backanno
.end
